US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-chlorophenoxy)aniline and (S)-2-(tert-butoxycarbonylamino)-3-phenylpropanoic acid, gave (S)-2-amino-N-(4-(4-chlorophenoxy)phenyl)-3-phenylpropanamide (45 mg, 13%).

reactant | 4-(4-chlorophenoxy)aniline | ClC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10ClNO
reactant | (S)-2-(tert-butoxycarbonylamino)-3-phenylpropanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C14H19NO4
product | (S)-2-amino-N-(4-(4-chlorophenoxy)phenyl)-3-phenylpropanamide | 45 mg, 13% | N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)CC1=CC=CC=C1 | C21H19ClN2O2
